Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[NH:1][C@H:2]([C@@H:3]([CH2:4][NH:5][CH:6]1[c:7]2[c:8]([cH:9][cH:10][c:11]([CH2:12][CH3:13])[cH:14]2)[N:15]([CH3:16])[CH2:17][CH2:18]1)[OH:19])[CH2:20][c:21]1[cH:22][c:23]([F:24])[cH:25][c:26]([F:27])[cH:28]1>>[NH2:1][C@H:2]([C@@H:3]([CH2:4][NH:5][CH:6]1[c:7]2[c:8]([cH:9][cH:10][c:11]([CH2:12][CH3:13])[cH:14]2)[N:15]([CH3:16])[CH2:17][CH2:18]1)[OH:19])[CH2:20][c:21]1[cH:22][c:23]([F:24])[cH:25][c:26]([F:27])[cH:28]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C@H:2]([C@@H:3]([CH2:4][NH:5][CH:6]1[c:7]2[c:8]([cH:9][cH:10][c:11]([CH2:12][CH3:13])[cH:14]2)[N:15]([CH3:16])[CH2:17][CH2:18]1)[OH:19])[CH2:20][c:21]1[cH:22][c:23]([F:24])[cH:25][c:26]([F:27])[cH:28]1.[H+:301]>>[NH2:1][C@H:2]([C@@H:3]([CH2:4][NH:5][CH:6]1[c:7]2[c:8]([cH:9][cH:10][c:11]([CH2:12][CH3:13])[cH:14]2)[N:15]([CH3:16])[CH2:17][CH2:18]1)[OH:19])[CH2:20][c:21]1[cH:22][c:23]([F:24])[cH:25][c:26]([F:27])[cH:28]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][n:7][cH:8]1.[CH3:9][CH2:10][CH2:11][n:12]1[n:13][c:14]2[c:15]([NH2:16])[n:17][c:18]3[cH:19][cH:20][cH:21][cH:22][c:23]3[c:24]2[c:25]1[CH2:26][C:27]([CH3:29])([CH3:28])[NH2:30]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][n:7][cH:8]1)[NH:30][C:27]([CH2:26][c:25]1[n:12]([CH2:11][CH2:10][CH3:9])[n:13][c:14]2[c:15]([NH2:16])[n:17][c:18]3[cH:19][cH:20][cH:21][cH:22][c:23]3[c:24]12)([CH3:28])[CH3:29],[CH3:9][CH2:10][CH2:11][n:12]1[n:13][c:14]2[c:15]([NH2:16])[n:17][c:18]3[cH:19][cH:20][cH:21][cH:22][c:23]3[c:24]2[c:25]1[CH2:26][C:27]([CH3:28])([CH3:29])[NH2:30].[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][n:7][cH:8]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][n:7][cH:8]1)[NH:30][C:27]([CH2:26][c:25]1[n:12]([CH2:11][CH2:10][CH3:9])[n:13][c:14]2[c:15]([NH2:16])[n:17][c:18]3[cH:19][cH:20][cH:21][cH:22][c:23]3[c:24]12)([CH3:28])[CH3:29],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(30, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
C[O:1][c:2]1[cH:3][c:4]([CH3:5])[cH:6][c:7]2[c:8]1[c:9]1[c:10]([o:11][c:12]2=[O:13])[C:14](=[O:15])[c:16]2[c:17]([OH:18])[cH:19][cH:20][cH:21][c:22]2[C:23]1=[O:24]>>[OH:1][c:2]1[cH:3][c:4]([CH3:5])[cH:6][c:7]2[c:8]1[c:9]1[c:10]([o:11][c:12]2=[O:13])[C:14](=[O:15])[c:16]2[c:17]([OH:18])[cH:19][cH:20][cH:21][c:22]2[C:23]1=[O:24],[CH3:101][O:1][c:2]1[cH:3][c:4]([CH3:5])[cH:6][c:7]2[c:8]1[c:9]1[c:10]([o:11][c:12]2=[O:13])[C:14](=[O:15])[c:16]2[c:17]([OH:18])[cH:19][cH:20][cH:21][c:22]2[C:23]1=[O:24].Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][c:4]([CH3:5])[cH:6][c:7]2[c:8]1[c:9]1[c:10]([o:11][c:12]2=[O:13])[C:14](=[O:15])[c:16]2[c:17]([OH:18])[cH:19][cH:20][cH:21][c:22]2[C:23]1=[O:24],O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH:1]([F:2])[F:3].[CH3:4][O:5][C:6](=[O:7])[c:8]1[cH:9][c:10]([OH:11])[n:12]([CH3:13])[n:14]1>>[CH:1]([F:2])([F:3])[O:11][c:10]1[cH:9][c:8]([C:6]([O:5][CH3:4])=[O:7])[n:14][n:12]1[CH3:13],[CH3:4][O:5][C:6](=[O:7])[c:8]1[cH:9][c:10]([OH:11])[n:12]([CH3:13])[n:14]1.[Cl:101][CH:1]([F:2])[F:3]>>[CH:1]([F:2])([F:3])[O:11][c:10]1[cH:9][c:8]([C:6]([O:5][CH3:4])=[O:7])[n:14][n:12]1[CH3:13],SN1,"[([1, 101], 101), (11, 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)[Si](C)(C)[O:1][c:2]1[cH:3][c:4]([CH3:5])[c:6]([NH:7][C:8](=[S:9])[NH:10][c:11]2[n:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][s:19]2)[cH:20][cH:21]1>>[OH:1][c:2]1[cH:3][c:4]([CH3:5])[c:6]([NH:7][C:8](=[S:9])[NH:10][c:11]2[n:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][s:19]2)[cH:20][cH:21]1,CC(C)(C)[Si:101](C)(C)[O:1][c:2]1[cH:3][c:4]([CH3:5])[c:6]([NH:7][C:8](=[S:9])[NH:10][c:11]2[n:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][s:19]2)[cH:20][cH:21]1.[F-:301]>>[OH:1][c:2]1[cH:3][c:4]([CH3:5])[c:6]([NH:7][C:8](=[S:9])[NH:10][c:11]2[n:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][s:19]2)[cH:20][cH:21]1,SN2,"[(301, 101), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
